US03952013
To part of 6-ethoxy-1thiachromone-2-carboxylic acid in water was added 0.336 parts of sodium bicarbonate. The mixture was stirred for several minutes and the resulting solution was filtered and freeze-dried to give sodium 6-ethoxy-1-thiachromone-2-carboxylate.

reactant | 6-ethoxy-1thiachromone-2-carboxylic acid | C(C)OC=1C=C2C(C=C(SC2=CC1)C(=O)O)=O | C12H10O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 6-ethoxy-1-thiachromone-2-carboxylate | C(C)OC=1C=C2C(C=C(SC2=CC1)C(=O)[O-])=O.[Na+] | InChI=1S/C12H10O4S.Na/c1-2-16-7-3-4-10-8(5-7)9(13)6-11(17-10)12(14)15;/h3-6H,2H2,1H3,(H,14,15);/q;+1/p-1
